US07022851B2
N-[2-(4-Methyl-2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester
To a solution of N-(2-aminoethyl)-glycine ethyl ester 2HCl (1.10 g, 5.0 mmol), prepared as described by Will (D. W. Will et al., Tetrahedron, 1995, 51, 12069–12802.), in dichloromethane (50 mL) was slowly added triethylamine (2.02 g, 20 mmol) at room temperature. Then 4-methyl-2-nitro-benzenesulfonyl chloride (1.19 g 5.0 mmol) in dichloromethane (10 mL) was added to the reaction mixture at room temperature for 5 min. The resulting reaction mixture was stirred for additional 2 h. at room temperature and washed with water (30 mL). The organic layer was dried over MgSO4 and filtered. The filtrate was evaporated in vacuo to give desired product (1.60 g, 92%) as a solid. 1H-NMR (500 MHz; DMSO-d6) δ 7.87 (d, 1H), 7.81 (s, 1H), 7.66 (d, 1H), 4.06 (q, 2H), 3.24 (s, 2H), 2.91 (t, 2H), 2.57 (t, 2H), 2.44 (s, 3H), 1.17 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | 5.0 mmol, 1.10 g | Cl.Cl.C(C)OC(CNCCN)=O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-2-nitro-benzenesulfonyl chloride | 5.0 mmol, 1.19 g | CC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H6ClNO4S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2-(4-Methyl-2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester | 1.60 g, 92% | C(C)OC(CNCCNS(=O)(=O)C1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C13H19N3O6S
